US04755516
STEP D: 4-(Guanin-9-yl)butanal
To a vigorously stirred solution of 113 mg (0.53 mmole) of sodium periodate in 1.1 ml of H2O at room temperature was added 101 mg (0.4 mmole) of (±)-9-(4,5-dihydroxypentyl)guanine. After 2 hours, TLC (silica gel, 70:30:3 CHCl3 --MeOH--H2O) showed complete conversion to a faster-moving product. The white solid was collected on a filter and washed with some H2O, then with diethyl ether, to give 79 mg of white solid. Recrystallization from H2O--MeOH yielded 29 mg (33%) of white solid, m.p. not less than 300° C. By 200 MHz NMR (DMSO-d6), the material consisted of a mixture of the free aldehyde and the covalent hydrate. A similar preparation showed only the free aldehyde by NMR.

reactant | sodium periodate | 0.53 mmole, 113 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | (±)-9-(4,5-dihydroxypentyl)guanine | 0.4 mmole, 101 mg | OC(CCCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
solvent | H2O | 1.1 ml | O | H2O
product | 4-(Guanin-9-yl)butanal | 79 mg | N1C(N)=NC=2N(C=NC2C1=O)CCCC=O | C9H11N5O2
